US07304081B2
Step 3. methyl 4-{4-[1-(tert-butoxycarbonyl)cyclopropyl]phenyl}piperazine-1-carboxylate
tert-Butyl 4-{4-[1-(tert-butoxycarbonyl)cyclopropyl]phenyl}piperazine-1-carboxylate (16.0 mg, 0.0000397 mol) was treated with hydrogen chloride in 1,4-dioxane (4.0 M, 0.20 mL) at rt for 30 min. The solvent was evaporated under reduced pressure, and the residue was dissolved in acetonitrile (1.0 mL, 0.019 mol) and was treated with N,N-diisopropylethylamine (20.0 μL, 0.000115 mol) and methyl chloroformate (5.0 μL μL, 0.000065 mol). After 30 min, the solvent was evaporated under reduced pressure and the residue was the desired product, which was directly used in the next step without further purification. LC/MS: 361.2 (M+H+).

reactant | tert-Butyl 4-{4-[1-(tert-butoxycarbonyl)cyclopropyl]phenyl}piperazine-1-carboxylate | 0.0000397 mol, 16.0 mg | C(C)(C)(C)OC(=O)C1(CC1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C23H34N2O4
reactant | hydrogen chloride | Cl | ClH
reactant | acetonitrile | 0.019 mol, 1.0 mL | C(C)#N | C2H3N
reactant | N,N-diisopropylethylamine | 0.000115 mol, 20.0 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl chloroformate | 0.000065 mol, 5.0 μL | ClC(=O)OC | C2H3ClO2
solvent | 1,4-dioxane | 4.0 M, 0.20 mL | O1CCOCC1 | C4H8O2
product | methyl 4-{4-[1-(tert-butoxycarbonyl)cyclopropyl]phenyl}piperazine-1-carboxylate | C(C)(C)(C)OC(=O)C1(CC1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC | C20H28N2O4
